Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
intestinal melanoma, ventral hernia
 
Major Surgical or Invasive Procedure:
open small bowel resection of intestinal melanoma, ventral 
hernia repair

 
History of Present Illness:
Patient has stage IV melanoma treated in the past with 
interferon, ipilimumab, and pembrolizumab.  He had perhaps an 
episode of gastrointestinal bleeding in ___ with 
admission to an outside hospital for what by description seems 
consistent with a transient small bowel obstruction.  His 
imaging strongly suggests a distal small bowel mass, although 
whether this is actually in the ileum is not clear.  He has had 
an aggressive colonoscopy which failed to reveal a lesion. The 
patient was scheduled for planned surgical procedure.
 
Past Medical History:
PMHX: 
ipilimumab-induced colitis 
hypertension 
hypercholesterolemia
chronic migraines 
hypothyroidism attributable to IL-2
non-insulin-dependent diabetes 
cervical radiculitis 
anxiety
?anabolic steroid use/abuse

PSHx:
___ left ear excision and left neck dissectionfor melanoma.  On 
___  right craniotomy 
___ laparoscopic cholecystectomy w/infraumbilical 
prostatic mesh 
at least 3 ventral hernia repairs with mesh over the past ___ 
years \\ either two left inguinal hernia repairs or perhaps 
bilateral inguinal herniorrhaphies

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vital Signs ___ 0738 Temp: 98.6 PO BP: 135/82 HR: 70 RR: 18
O2 sat: 94% O2 delivery: RA FSBG: 200 
General: laying in bed
Cardio: bradycardic, normal S1, S2 ,no murmurs/rubs/gallops
Pulmonary: clear to auscultation bilaterally
Abd:  soft, mildly distended, non tender, midline dressing 
c/d/i, staples intact
with minimal erythema,
MSK: SCD on legs bilaterally, 2+ DP and TP bilaterally 
 
Pertinent Results:
___ 07:48AM BLOOD WBC-4.6 RBC-3.96* Hgb-11.4* Hct-34.3* 
MCV-87 MCH-28.8 MCHC-33.2 RDW-12.5 RDWSD-39.9 Plt ___
___ 07:05AM BLOOD WBC-5.1 RBC-3.49* Hgb-10.1* Hct-30.8* 
MCV-88 MCH-28.9 MCHC-32.8 RDW-12.7 RDWSD-41.1 Plt ___
___ 08:54AM BLOOD WBC-7.4 RBC-3.85* Hgb-11.2* Hct-34.2* 
MCV-89 MCH-29.1 MCHC-32.7 RDW-12.9 RDWSD-41.8 Plt ___
___ 07:48AM BLOOD Glucose-172* UreaN-10 Creat-0.8 Na-139 
K-4.2 Cl-100 HCO3-28 AnGap-11
___ 08:54AM BLOOD Glucose-173* UreaN-23* Creat-1.1 Na-139 
K-4.3 Cl-100 HCO3-26 AnGap-13
___ 07:48AM BLOOD Calcium-9.1 Phos-2.8 Mg-1.8
___ 08:54AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.5*
 
Brief Hospital Course:
___ M w/ hx of melanoma stage IV s/p left ear WLE with LND, 
right craniectomy, XRT, and immunotherapy who is now s/p open 
small bowel resection of intestinal melanoma. The patient 
tolerated the procedure well; refer to operative report for 
details of surgery dictated separately. Patient was admitted to 
the floor ___ care.

Hospital Course by Systems:

Neuro:Initially postoperatively patient had an epidural and 
managed by acute pain service. POD #2, epidural was discontinued 
and patient was subsequently was transitioned to pain regimen of 
oxycodone. His home dose of tramadol was held postoperatively.

Cardiovascular: Postoperatively patient was placed on telemetry 
for OSA and bradycardia. Vital signs were routinely monitored. 
Notably on POD #2,had 13 beat run of vtach. Patient was 
asymptomatic and EKG was unremarkable.

Pulmonary: Oxygen was weaned and the patient was ambulating 
independently without supplemental oxygen prior to discharge.

GI: Diet was advanced as tolerated without issue. Patient was 
started on a bowel regimen and had a bowel movement on POD #3.

GU: Postoperatively had foley catheter in place and had low 
urine output which improved after 500Cc IV fluid bolus. POD #2 
foley cathter was discontinued and he subsequently voided 
without issues.

Heme: Received heparin subcutaneously and pneumatic compression 
boots for DVT prophylaxis.

Endocrine: No issues

ID: Received perioperative antibiotics.

Wound: Midline abdominal incision remained dry and intact 
without any signs of infection. 

On POD 4 the patient was discharged home in stable condition. 
Patient was given detailed discharge instructions outlining 
wound care, activity, diet, follow-up and the appropriate 
medication scripts.
 
Medications on Admission:
Celexa 60 mg daily,
Adderall 30 mg daily
Levothyroxine 274 mcg daily
Ativan 0.5 mg as needed,
Metformin 500 mg twice daily,
Oxycodone 5 mg as needed for neck pain
Lyrica 50 mg 3 times daily,
Tramadol 50 mg ___ times daily
Iron sulfate
Ambien 10 mg nightly
 
Discharge Medications:
1.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Please don't drive or drink while taking this medication.
 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q ___ hrs Disp #*10 
Tablet Refills:*0 
2.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
3.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
4.  Amphetamine-Dextroamphetamine 15 mg PO DAILY  
5.  Citalopram 60 mg PO DAILY  
6.  Ferrous Sulfate 325 mg PO 3X/WEEK (___)  
7.  Levothyroxine Sodium 275 mcg PO DAILY  
8.  LORazepam 0.5 mg PO QHS insomnia/anxiety  
9.  Pregabalin 50 mg PO TID  
10.  Ursodiol 600 mg PO BID  
11.  Vitamin D 1000 UNIT PO DAILY  
12.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel mestatic melanoma, ventral hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You  were admitted to ___ following your surgery. You have 
been recovering well, and you may return home to continue your 
recovery. 

The following is a summary of discharge instructions: 

MEDICATIONS 
 1. Please resume all home medications, unless specifically 
advised not to take a particular medication. Please take any new 
medications as prescribed.
 2. Please take all pain medications as prescribed, as needed. 
You may not drive or operate heavy machinery while taking 
narcotic pain medications. You may also take acetaminophen 
(Tylenol) as directed, but do not exceed 4000 mg in one day.
 3. An over-the-counter stool softener such as Colace (100 mg 
twice daily) is recommended to prevent constipation while on 
narcotic pain medication.

WOUND CARE
1.You may leave your surgical incision open to air or covered 
with a dry sterile gauze and change it daily.
2.Monitor the wounds for signs of infection, including redness 
that is spreading or increased drainage from wounds. Please call 
Dr. ___ if you experience any of these symptoms.
3. Your midline abdominal staples will be removed at your 
postoperative follow-up appointment.

 ACTIVITY
1. Continue to walk several times a day if able. No strenuous 
activity for approximately ___ weeks or until cleared by Dr. 
___.

2.OK to shower with your incision uncovered and allow soap and 
water to run along incision. please gently pat the incision dry. 
No swimming or baths until for approximately ___ weeks.
Call the office IMMEDIATELY if you have any of the following:  
 1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision.  
 2. Fever greater than 101.5 oF  
 3. Severe pain NOT relieved by your medication.  
 Go to the ER if:  
 * If you are vomiting and cannot keep in fluids or your 
medications.  
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
 * Any serious change in your symptoms, or any new symptoms that 
concern you.  

Best Wishes,
Your ___ Care Team
 
Followup Instructions:
___